US04220466
1-(N,N-Dimethylcarbamoyl)-4,5-dicyanoimidazole
To 50 ml of dry 1,4-dioxane 6.0 g (0.05 mole) of 4,5-dicyanoimidazole, 5.0 g (0.05 mole) of triethylamine and 6.0 g (0.055 mole) of dimethylcarbamoyl chloride are added in succession at room temperature. This mixture is stirred and refluxed for 3 days, cooled to room temperature and evaporated to dryness. The residue is stirred in 50 ml of ethyl acetate and 50 ml water. The organic layer is separated, washed, dried and evaporated to give 8 g. (85%) of white product.

reactant | 1,4-dioxane | 0.05 mole, 50 ml, 6.0 g | O1CCOCC1 | C4H8O2
reactant | 4,5-dicyanoimidazole | C(#N)C=1N=CNC1C#N | C5H2N4
reactant | triethylamine | 0.05 mole, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.055 mole, 6.0 g | CN(C(=O)Cl)C | C3H6ClNO
product | 1-(N,N-Dimethylcarbamoyl)-4,5-dicyanoimidazole | CN(C(=O)N1C=NC(=C1C#N)C#N)C | C8H7N5O
